US06093696
2,4,6-Trichlorobenzyl alcohol
A solution of lithium aluminium hydride (1M in THF, 18 mmol, 18 ml) was added slowly to a solution of 2,4,6-trichlorobenzoyl chloride (4.35 g, 17.8 mmol) in THF (70 ml) at 0°. After 1 h water (685 μl) was added, followed by aqueous sodium hydroxide (3M, 685 μl) and more water (2.06 ml). The suspension was stirred vigorously for 1 h, the precipitate filtered off and the filtrate evaporated in vacuo to give a slightly yellow solid. Recrystallisation from diisopropylether gave the title compound as white needles (2.63 g, 70%), m.p. 100-101°δH (CDCl3) 7.35 (2H, s, ArH), 4.91 (2H, br s, CH2CH) and 2.07 (1H, br s, CH); m/z (ES, 60V) 193 (M--OH).

reactant | lithium aluminium hydride | 18 mmol, 1M, 18 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,4,6-trichlorobenzoyl chloride | 17.8 mmol, 4.35 g | ClC1=C(C(=O)Cl)C(=CC(=C1)Cl)Cl | C7H2Cl4O
reactant | water | 685 μl | O | H2O
reactant | sodium hydroxide | 3M, 685 μl | [OH-].[Na+]
reactant | water | 2.06 ml | O | H2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 2,4,6-Trichlorobenzyl alcohol | 2.63 g, 70% | ClC1=C(CO)C(=CC(=C1)Cl)Cl | C7H5Cl3O
